US07671074B2
N-{amino-[(pyridin-3-yl-methyl)-amino]-methylene}-4-methylbenzenesulfonamide (23)
The compound of Example 23 was prepared according to the accompanying synthesis procedure from 0.5 ml of N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-chlorobenzene-sulfonamide solution (0.2 M, acetonitrile) with 19 mg of methanesulfonic acid and 0.5 ml of 3-picolylamine solution (1.0 M, acetonitrile) and filed in a substance databank. Calculated mol. wt. 304.37; found mol. wt. (M+H) 305.3; 609.2 (Dimer)

reactant | N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-chlorobenzene-sulfonamide | 0.2 M, 0.5 ml | CC1=NN(C(=C1)C)C(NS(=O)(=O)C1=CC=C(C=C1)Cl)=N | C12H13ClN4O2S
reactant | methanesulfonic acid | 19 mg | CS(=O)(=O)O | CH4O3S
reactant | 3-picolylamine | 1.0 M, 0.5 ml | N1=CC(=CC=C1)CN | C6H8N2
product | N-{amino-[(pyridin-3-yl-methyl)-amino]-methylene}-4-methylbenzenesulfonamide | NC(=NS(=O)(=O)C1=CC=C(C=C1)C)NCC=1C=NC=CC1 | C14H16N4O2S
